US04284642
A mixture of 28.2 g (0.143 moles) of N-(β-chloropropyl)-2,6-dimethylaniline, prepared as described in Example 3, Method (b), point (a), 36.4 g (0.285 moles) of 4-chloroaniline and 1.6 g (10 mmoles) of potassium iodide is stirred at 140° to 145° C. for 3 hours under nitrogen atmosphere. The mixture is allowed to cool to about 60° C., and 30 ml of ethyl acetate are added. The mixture is cooled to room temperature, and the separated precipitate is filtered off, washed with ethyl acetate and dried. 14.0 g of 1-(2',6'-dimethyl-phenylamino)-2-(4'-chlorophenyl-amino)-propane hydrochloride (fraction A) are obtained. The filtrate is acidified with isopropanolic hydrochloric acid (acid content: about 15 g/100 ml), the separated precipitate is filtered off, washed with isopropanol and dried. 28.8 g of the same compound (fraction B) are obtained. Fractions A and B are combined, triturated with 100 ml of water, filtered, washed with water, dried, and the resulting solid, weighing 25.7 g, is recrystallized from methanol. 21.4 g (46.0%) of pure 1-(2',6'-dimethylphenylamino)-2-(4'-chlorophenyl-amino)-propane hydrochloride are obtained; m.p.: 170°-176° C. This salt is converted to the free base as described in Example 3, Method (b), point (b), and the base is separated by extracting the reaction mixture with chloroform.

reactant | N-(β-chloropropyl)-2,6-dimethylaniline | 0.143 moles, 28.2 g | ClC(CNC1=C(C=CC=C1C)C)C | C11H16ClN
reactant | 4-chloroaniline | 0.285 moles, 36.4 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | potassium iodide | 10 mmoles, 1.6 g | [I-].[K+]
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2',6'-dimethyl-phenylamino)-2-(4'-chlorophenyl-amino)-propane hydrochloride | 14.0 g | Cl.CC1=C(C(=CC=C1)C)NCC(C)NC1=CC=C(C=C1)Cl | InChI=1S/C17H21ClN2.ClH/c1-12-5-4-6-13(2)17(12)19-11-14(3)20-16-9-7-15(18)8-10-16;/h4-10,14,19-20H,11H2,1-3H3;1H
